US04835158
5,14-Dihydro-7-methylbenz[5,6]isoindolo[2,1-b]isoquinoline-8,13-dione
A mixture of 1,2,3,4-tetrahydro-3-isoquinoline carboxylic acid hydrochloride (4.0 g) and 1,4-naphthoquinone (5.5 g) in acetic anhydride (115 ml) was heated at 100° C. with stirring for 5.5 hours. The reaction mixture was cooled and the green crystalline solid was collected by filtration, washed with acetic anhydride and ether and dried. Recrystallisation from acetic anhydride afforded the title compound (3.5 g), decomposes 240°-245° C. (cap.) without loss of crystalline form λmax (in ethanol) 245 (ε60,470), 265.5 (ε15,270) and 386 nm (ε7706).

reactant | 1,2,3,4-tetrahydro-3-isoquinoline carboxylic acid hydrochloride | 4.0 g | Cl.C1NC(CC2=CC=CC=C12)C(=O)O
reactant | 1,4-naphthoquinone | 5.5 g | C1(C=CC(C2=CC=CC=C12)=O)=O | C10H6O2
reactant | acetic anhydride | 115 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 5,14-Dihydro-7-methylbenz[5,6]isoindolo[2,1-b]isoquinoline-8,13-dione | 3.5 g | CC1=C2C(C3=C(C(C2=C2N1CC1=CC=CC=C1C2)=O)C=CC=C3)=O | C21H15NO2
